US08461189B2
Benzyl(2-amino-6-phenylpyridin-3-yl)carbamate
A solution of di-tert-butyl(3-{[(benzyloxy)carbonyl]amino}-6-phenylpyridin-2-yl)imidodicarbonate (359 mg, 0.691 mmol) and methylene chloride (2.76 mL) was treated with TFA (0.691 mL) in one portion. The reaction was stirred for 3 h, then concentrated via rotovap slowly to afford a residue purified via MPLC, silica cartridge, 0-5% MeOH in methylene chloride to afford the product as a light orange solid. 1H NMR (DMSO-d6, 600 MHz, rotamers present) δ 9.04 (br s, 1H), 7.86 (d, J=7.3 Hz, 1H), 7.47-7.30 (m, 5H), 7.15 (d, J=8.2 Hz, 1H), 6.40 (br s, 2H), 5.16 (s, 2H); MS cal'd 320 (M+H)+, exp 320 (M+H)+.

reactant | di-tert-butyl(3-{[(benzyloxy)carbonyl]amino}-6-phenylpyridin-2-yl)imidodicarbonate | 0.691 mmol, 359 mg | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC(=CC=C1NC(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C29H33N3O6
reactant | TFA | 0.691 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 2.76 mL | C(Cl)Cl | CH2Cl2
product | Benzyl(2-amino-6-phenylpyridin-3-yl)carbamate | C(C1=CC=CC=C1)OC(NC=1C(=NC(=CC1)C1=CC=CC=C1)N)=O | C19H17N3O2
